US09334278B2
To a solution of N-(1-hydroxy-2-methylpropan-2-yl)-2-(5-methylpyridin-2-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (66 mg, 140 μmol) in dichloromethane (1.5 mL) was added trifluoroacetic acid (320 mg, 216 μL, 2.8 mmol) and the mixture stirred at room temperature for 16 h. The reaction mixture was concentrated in vacuo then the residue was dissolved in dichloromethane (2 mL), methanol (0.5 mL) and ammonium hydroxide (0.3 mL). After stirring at room temperature for 30 min, the mixture was concentrated in vacuo and triturated with ether and water. The yellow precipitate was collected by filtration and washed with water then ether to give N-(1-hydroxy-2-methylpropan-2-yl)-2-(5-methylpyridin-2-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (31 mg, 91.1 μmol, 65%) as a yellow solid. 1H NMR (400 MHz, DMSO-d) δ ppm: 12.38 (s, 1H), 9.86 (s, 1H), 8.39 (s, 1H), 8.12 (d, J=2.5 Hz, 1H), 8.04 (d, J=3.3 Hz, 1H), 7.95 (d, J=8.4 Hz, 1H), 7.74 (s, 1H), 7.54 (dd, J=8.6, 2.3 Hz, 1H), 5.06 (s, 1H), 3.58 (s, 2H), 2.25 (s, 3H), 1.39 (s, 6H); MS (EI/CI) m/z: 341.1 [M+H].

reactant | N-(1-hydroxy-2-methylpropan-2-yl)-2-(5-methylpyridin-2-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 140 μmol, 66 mg | OCC(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC2=NC=C(C=C2)C)COCC[Si](C)(C)C | C23H34N6O3Si
reactant | trifluoroacetic acid | 2.8 mmol, 216 μL, 320 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | ether | CCOCC | C4H10O
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | N-(1-hydroxy-2-methylpropan-2-yl)-2-(5-methylpyridin-2-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 91.1 μmol, 31 mg, 65% | OCC(C)(C)NC(=O)C1=CNC2=NC=C(N=C21)NC2=NC=C(C=C2)C | C17H20N6O2
